US05131947
Under stirring, 21 ml of a saturated aqueous solution of sodium bisulfite were added little by little to the mixture of 10.0 g of 3,5-difluorobenzaldehyde, 3.6 g of sodium cyanide and 15 ml of water. Upon the gradual addition, ice pieces were added at the same time to maintain the reaction temperature at 20°-30° C. The reaction mixture was stirred for 10 hours and then extracted with benzene. The resulting organic layer was washed with water, dried over anhydrous sodium sulfate and then concentrated under reduced pressure, whereby 10.2 g of crude 3,5-difluoromandelonitrile were obtained.

reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | 3,5-difluorobenzaldehyde | 10.0 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | sodium cyanide | 3.6 g | [C-]#N.[Na+]
solvent | water | 15 ml | O | H2O
product | 3,5-difluoromandelonitrile | 10.2 g | FC=1C=C(C(C#N)O)C=C(C1)F | C8H5F2NO
